US06888032B2
A Schlenk tube was charged with CuI (9.6 mg, 0.0504 mmol, 5.0 mol %), 3-bromobenzoic acid (210 mg, 1.00 mmol), NaI (300 mg, 2.00 mmol), evacuated and backfilled with argon. trans-N,N′-Dimethyl-1,2-cyclohexanediamine (16 μL, 0.10 mmol, 10 mol %), 1,1,1,3,3,3-hexamethyldisilazane (211 μL, 1.00 mmol), and dioxane (1.0 mL) were added under argon. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred at 110° C. for 23 h. The resulting suspension was allowed to reach room temperature, poured into 10% aq HCl (20 mL), and extracted with dichloromethane (3×15 mL). The combined organic phases were dried (Na2SO4) and concentrated. The residue was dissolved in dichloromethane (50 mL) and washed with an aqueous solution of 1% HCl and 1% Na2SO3. The aqueous phase was extracted with with dichloromethane (2×20 mL). The organic phases were combined, dried (Na2SO4) and concentrated. The solid residue was washed with hexane (3×15 mL) and dried to provide 3-iodobenzoic acid (222 mg, 90% yield) as white, fine needles.

reactant | 3-bromobenzoic acid | 1.00 mmol, 210 mg | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | NaI | 2.00 mmol, 300 mg | [Na+].[I-]
reactant | trans-N,N′-Dimethyl-1,2-cyclohexanediamine | 0.10 mmol, 16 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 1.00 mmol, 211 μL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | HCl | 20 mL | Cl | ClH
catalyst | CuI | 0.0504 mmol, 9.6 mg | [Cu]I
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 3-iodobenzoic acid | 222 mg, 90% yield | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
